US05387710
To a solution of tert-butyl 4-amino-5-(3-methoxyphenyl)valerate (0.22 g) in 1,4-dioxane (0.2 ml), acetic anhydride (0.08 ml) was added and the solution was stirred for 80 minutes. To the solution, ethanol was added and the solution was stirred for 15 minutes. The pH of the solution was adjusted to 12 with sodium hydroxide solution and the solution was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to give tert-butyl 4-acetylamino-5-(3-methoxyphenyl)valerate (246 mg).

reactant | tert-butyl 4-amino-5-(3-methoxyphenyl)valerate | 0.22 g | NC(CCC(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC | C16H25NO3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
solvent | acetic anhydride | 0.08 ml | C(C)(=O)OC(C)=O | C4H6O3
product | tert-butyl 4-acetylamino-5-(3-methoxyphenyl)valerate | 246 mg | C(C)(=O)NC(CCC(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC | C18H27NO4
